US09119868B2
A suspension of 6-(N-(5-bromopyridin-2-yl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (400 mg, 0.72 mmol), potassium acetate (210 mg, 2.14 mmol), bis(pinacolato)diboron (2721 mg, 10.71 mmol), and PdCl2(dppf) (58 mg, 0.071 mmol) in 1,4-dioxane (10 mL) in a thick-walled glass pressure vessel was maintained at 90° C. with stirring for 16 hours. The solution was cooled to room temperature and filtered. The filtrates were concentrated and purified by column chromatography to afford 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)methylsulfonamido)benzofuran-3-carboxamide (320 mg, 0.53 mmol, 74% yield) as a white solid. LCMS (m/z, ES+)=606 (M+H+).

reactant | 6-(N-(5-bromopyridin-2-yl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.72 mmol, 400 mg | BrC=1C=CC(=NC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C25H21BrFN3O4S
reactant | potassium acetate | 2.14 mmol, 210 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 10.71 mmol, 2721 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.071 mmol, 58 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)methylsulfonamido)benzofuran-3-carboxamide | 0.53 mmol, 320 mg, 74% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C31H33BFN3O6S
